US07531532B2
3-[6-(2-Fluoro-4-{3-[2-(4-fluorophenyl)acetyl]ureido}phenoxy)pyrimidin-4-yl]-1,1-dimethylurea
2-(4-Fluorophenyl)acetamide (125 mg) was dissolved in 1,2-dichloroethane (9 ml) under a nitrogen atmosphere, and then oxalyl chloride (0.10 ml) was added thereto, followed by stirring at 110° C. overnight. The reaction mixture was concentrated under a reduced pressure to give a residue, which was then dissolved in N,N-dimethylformamide (1 ml) under a nitrogen atmosphere. A solution of 3-[6-(4-amino-2-fluorophenoxy)pyrimidin-4-yl]-1,1-dimethylurea (90 mg) in N,N-dimethylformamide (2 ml) was then added thereto, followed by stirring for 30 min. The reaction mixture was partitioned between ethyl acetate and water. The organic layer was washed with a saturated aqueous solution of sodium hydrogencarbonate, water and brine in this order, and dried over anhydrous sodium sulfate. The solvent was evaporated to give a residue, which was then purified by silica gel column chromatography (eluent; hexane:ethyl acetate=1:3). Fractions containing the target compound were concentrated to give a residue, to which diethyl ether (2 ml)-hexane (1 ml) was added to suspend. The solid was filtered off and dried under aeration to provide the titled compound (72.4 mg, 49.8%) as a pale yellow solid.

reactant | 2-(4-Fluorophenyl)acetamide | 125 mg | FC1=CC=C(C=C1)CC(=O)N | C8H8FNO
reactant | oxalyl chloride | 0.10 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 3-[6-(4-amino-2-fluorophenoxy)pyrimidin-4-yl]-1,1-dimethylurea | 90 mg | NC1=CC(=C(OC2=CC(=NC=N2)NC(N(C)C)=O)C=C1)F | C13H14FN5O2
reactant | diethyl ether | 2 ml | C(C)OCC | C4H10O
solvent | 1,2-dichloroethane | 9 ml | ClCCCl | C2H4Cl2
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | hexane | 1 ml | CCCCCC | C6H14
product | 3-[6-(2-Fluoro-4-{3-[2-(4-fluorophenyl)acetyl]ureido}phenoxy)pyrimidin-4-yl]-1,1-dimethylurea | 72.4 mg, 49.8% | FC1=C(OC2=CC(=NC=N2)NC(N(C)C)=O)C=CC(=C1)NC(=O)NC(CC1=CC=C(C=C1)F)=O | C22H20F2N6O4
